US04472435
Hydrogen chloride is introduced for 10 minutes into a solution of 5.25 g (15.05 mmol) of 2-amino-2'-[o-chloro-α-(hydroxyimino)-benzyl]-4'-nitro-acetanilide in 300 ml of methylene chloride and 100 ml of ethanol. The solution is evaporated to dryness in vacuo and the residue is dried overnight in vacuo. There is obtained 2-amino-2'-[o-chloro-α-(hydroxyimino)benzyl]-4'-nitro-acetanilide hydrochloride of melting point 140° (decomposition).

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-amino-2'-[o-chloro-α-(hydroxyimino)-benzyl]-4'-nitro-acetanilide | 15.05 mmol, 5.25 g | NCC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)Cl)=NO | C15H13ClN4O4
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-2'-[o-chloro-α-(hydroxyimino)benzyl]-4'-nitro-acetanilide hydrochloride | Cl.NCC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)Cl)=NO | InChI=1S/C15H13ClN4O4.ClH/c16-12-4-2-1-3-10(12)15(19-22)11-7-9(20(23)24)5-6-13(11)18-14(21)8-17;/h1-7,22H,8,17H2,(H,18,21);1H
